US05780465
A. (2-Fluorophenyl)(4-methylthio-5-pyrimidinyl)methanol
To a slurry of 20 g (98 mmol) of 5-bromo-4-methylthiopyrimidine in 200 mL of anhydrous tetrahydrofuran at -90° C. was slowly added with stirring and cooling 40 mL (100 mmol) of 2.5M n-butyl lithium in hexane. After a 20-min reaction period, 13.3 g of 2-fluorobenzaldehyde was added with stirring. The solution was allowed to gradually warm to -25° C. It was then poured into dilute aqueous hydrochloric acid with stirring. The resulting mixture was extracted with ether and the ethereal extract was dried over magnesium sulfate, filtered, and partially concentrated by evaporation under reduced pressure. The remaining mixture was diluted with hexane and the solids that formed were collected by filtration to obtain 9.75 g of the title compound as colorless solid melting at 176°-177° C.

reactant | 5-bromo-4-methylthiopyrimidine | 98 mmol, 20 g | BrC=1C(=NC=NC1)SC | C5H5BrN2S
reactant | n-butyl lithium | 100 mmol, 2.5M, 40 mL | C(CCC)[Li]
reactant | 2-fluorobenzaldehyde | 13.3 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (2-Fluorophenyl)(4-methylthio-5-pyrimidinyl)methanol | 9.75 g | FC1=C(C=CC=C1)C(O)C=1C(=NC=NC1)SC | C12H11FN2OS
